US09290472B2
Sodium hydride (60% oil dispersion, 0.32 g) was added to a stirred solution of tert-butyl (S)-3-benzyloxycarbonylaminopyrrolidine-1-carboxylate (prepared according to Cheng et al, WO2007 142585, 1.73 g) in THF (20 mL) and the mixture was stirred for 15 minutes. Iodomethane (1.85 g) was added and the mixture was stirred at room temperature for 1 hour. Methanol was carefully added to destroy the excess sodium hydride then ethyl acetate and water were added and the organic layer was washed with brine, dried (Na2SO4), filtered. The filtrate was concentrated in vacuo to give tert-butyl (S)-3-(N-benzyloxycarbonyl-N-methylamino)pyrrolidine-1-carboxylate (1.66 g) as a pale coloured oil.

reactant | Sodium hydride | 0.32 g | [H-].[Na+]
reactant | tert-butyl (S)-3-benzyloxycarbonylaminopyrrolidine-1-carboxylate | 1.73 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
reactant | Iodomethane | 1.85 g | IC | CH3I
reactant | Methanol | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (S)-3-(N-benzyloxycarbonyl-N-methylamino)pyrrolidine-1-carboxylate | 1.66 g | C(C1=CC=CC=C1)OC(=O)N(C)[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H26N2O4
